US07420056B2
94 mg (0.5 mmol) of copper(I) iodide, 129 mg (0.5 mmol) of triphenylphosphine, 1.32 ml (9.5 mmol) of NEt3, 701 mg (1.9 mmol) of tetra-n-butyl-ammonium iodide and 173 mg (0.25 mmol) of bis(triphenylphosphine)-palladium(II) chloride were added to a solution of 699 mg (1.9 mmol) of tert-butyl-[2-(5-trimethylsilanylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-amine (synthesis described in Example 158, part a) and 402 mg (2.5 mmol) of 3-bromo-thiophene in DMF (20 ml). 2.5 ml (2.5 mmol) of a 1M solution of tetra-n-butyl-ammonium fluoride in THF were added dropwise to the reaction solution over a period of 1 h. The mixture was then stirred at 70° C. for 18 h. After cooling to RT, the mixture was diluted with EA and combined with a 0.5M aq. Na2CO3 solution. The phases were separated and the aq. phase was extracted with EA. The combined organic phases were dried over MgSO4, filtered and evaporated under a vacuum. CC (acetonitrile/EA 1:3) was carried out with the group, 912 mg of slightly contaminated product being isolated. 304 mg (0.73 mmol, 38%) of N-tert-butyl-2-(5-(thiophen-3-ylethynyl)thiophen-2-yl)imidazo[1,2-a]pyrazin-3-amine hydrochloride were obtained by hydrochloride precipitation in accordance with the method described in Example 192.

reactant | triphenylphosphine | 0.5 mmol, 129 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NEt3 | 9.5 mmol, 1.32 ml | CCN(CC)CC | C6H15N
reactant | tert-butyl-[2-(5-trimethylsilanylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-amine | 1.9 mmol, 699 mg | C(C)(C)(C)NC1=C(N=C2N1C=CN=C2)C=2SC(=CC2)C#C[Si](C)(C)C | C19H24N4SSi
reactant | 3-bromo-thiophene | 2.5 mmol, 402 mg | BrC1=CSC=C1 | C4H3BrS
reactant | tetra-n-butyl-ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Na2CO3 | 0.5M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloride | Cl | ClH
catalyst | tetra-n-butyl-ammonium iodide | 1.9 mmol, 701 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | copper(I) iodide | 0.5 mmol, 94 mg | [Cu]I
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.25 mmol, 173 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-tert-butyl-2-(5-(thiophen-3-ylethynyl)thiophen-2-yl)imidazo[1,2-a]pyrazin-3-amine hydrochloride | 0.73 mmol, 304 mg, 38% | Cl.C(C)(C)(C)NC1=C(N=C2N1C=CN=C2)C=2SC(=CC2)C#CC2=CSC=C2 | InChI=1S/C20H18N4S2.ClH/c1-20(2,3)23-19-18(22-17-12-21-9-10-24(17)19)16-7-6-15(26-16)5-4-14-8-11-25-13-14;/h6-13,23H,1-3H3;1H
